* C:\users\max\My Documents\TU\GEN\UE02\ltspice\circuits_ass2.asc
R_th N001 N002 1.212121
V§U_th N001 0 -3.3838
R7 N002 0 20
I1 0 N002 20.2916
* a
* a_th
* b_th
.op 1
.backanno
.end
